Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Optiray 350 / contrast dye / cyclobenzaprine / 
hydrochlorothiazide / Contrave / topiramate / tramadol / 
gabapentin / acetaminophen / amlodipine
 
Attending: ___
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
--------------
___ 03:00AM BLOOD WBC-6.6 RBC-3.81* Hgb-10.4* Hct-32.0* 
MCV-84 MCH-27.3 MCHC-32.5 RDW-12.8 RDWSD-39.5 Plt ___
___ 03:00AM BLOOD Neuts-65.7 ___ Monos-11.5 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-4.35 AbsLymp-1.43 
AbsMono-0.76 AbsEos-0.04 AbsBaso-0.02
___ 05:39AM BLOOD ___ PTT-27.6 ___
___ 03:00AM BLOOD Glucose-114* UreaN-12 Creat-0.6 Na-136 
K-2.8* Cl-92* HCO3-29 AnGap-15
___ 03:00AM BLOOD Calcium-9.6 Phos-2.9 Mg-1.8
___ 10:40AM BLOOD Ferritn-448*
___ 03:00AM BLOOD CRP-117.5*

SED RATE 
  Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          70  H               < OR = 30 mm/h
WESTERGREN                                        
 
THIS TEST WAS PERFORMED AT:
___ ___  ___ 
___
Comment: TAKEN FROM ___
 
DISCHARGE LABS
-----------------
___ 06:37AM BLOOD WBC-9.2 RBC-3.65* Hgb-10.4* Hct-31.2* 
MCV-86 MCH-28.5 MCHC-33.3 RDW-13.0 RDWSD-40.6 Plt ___
___ 06:37AM BLOOD Glucose-87 UreaN-14 Creat-0.5 Na-138 
K-3.2* Cl-98 HCO3-30 AnGap-10
___ 06:37AM BLOOD Calcium-9.6 Phos-3.0 Mg-1.7

IMAGING
---------
___ CT spine 
IMPRESSION: 
1. No evidence of acute fracture. 
2. Mild-to-moderate degenerative changes at C1-2, C5-6, and 
C6-C7. 
3. Multinodular thyroid gland, as better assessed on previous 
ultrasound from ___. 
  
___ TEMPORAL ARTERY US
IMPRESSION:  
No sonographic evidence of temporal arteritis demonstrated. 

 
Brief Hospital Course:
SUMMARY:
=========
___ year old woman with a history of HTN who presented with one
week of acute on chronic neck/jaw pain found to have elevated
inflammatory markers, concerning for temporal arteritis. She was 
empirically started on prednisone with improvement of symptoms.  
Temporal artery ultrasound negative for inflammation, planning 
for outpatient TA biopsy with vascular surgery within 2 weeks.  
Rheumatology to follow.

TRANSITIONAL ISSUES:
====================
#Suspected GCA
[] Continue prednisone 60 mg until rheumatology follow-up
[] Rheumatology to schedule follow-up appointment
[] Vascular surgery aware of patient and to schedule outpatient 
TA biopsy within 2 weeks.

#HTN
[] Chlorthalidone held while inpatient due to soft blood 
pressures.  Patient instructed to take blood pressure every 
morning, and if less than 100mmHg to hold dose.  
[] Follow-up with PCP to discuss need for anti-hypertensives, 
consider Lasix if needed for peripheral edema control.

#CODE: full presumed.
#CONTACT:  ___
Phone ___
Cell ___ suspected GCA

ACUTE ISSUES:
============
#Neck pain:
#Concern for GCA:
Acute on chronic bilateral neck pain with radiation into
posterior occiput and temporal region. CT C spine negative. 
Inflammatory markers elevated (CRP 111, ESR 70), raising concern
for temporal arteritis as a possible cause, on empiric steroids.
Rheum recommends TA biopsy given US neg, will be scheduled 
vascular surgery as an outpatient. 

#Acute normocytic anemia: 
Normocytic anemia with an elevated inflammatory markers, likely
represents an anemia of inflammation in the setting of her
cervicalgia as noted above. No evidence hemolysis.

#Hypokalemia 
Likely in the setting of poor p.o. intake along with 
chlorthalidone use. 

CHRONIC ISSUES:
===============
#HTN:
Given hypotension in hospital, patient instructed to hold 
chlorthalidone if her blood pressure is less than  100mmHg at 
home. Recommend follow up with PCP, consideration of Lasix if 
needed for peripheral edema.

#GERD:
Continued home pantoprazole. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 25 mg PO DAILY 
2. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

3. Pantoprazole 40 mg PO Q24H 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth every morning Disp 
#*42 Tablet Refills:*0 
2.  Chlorthalidone 25 mg PO DAILY  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
4.  Pantoprazole 40 mg PO Q24H  
5.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Suspected giant cell arteritis 

SECONDARY DIAGNOSIS
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
================================
- You were admitted to the hospital because you were having 
severe head and neck pain.  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
=======================================
- You were given prednisone to help with inflammation.
- You had an ultrasound of your temporal arteries to see whether 
they had evidence of inflammation.
- You were seen by the rheumatology doctors, who will see you 
outpatient as well. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
================================================
- Continue to take all your medicines (including the new 
prednisone) and keep your appointments.
- You will have a biopsy of your temporal artery done as an 
outpatient with vascular surgery. They will call you to schedule 
this.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___